US06355680B1
In the manner described in example 3, 2-bromophenylacetic acid is condensed with 3-fluoro-4-methylaniline to yield 2-[(3-fluoro-4-methylphenyl)amino]phenylacetic acid.

reactant | 2-bromophenylacetic acid | BrC1=C(C=CC=C1)CC(=O)O | C8H7BrO2
reactant | 3-fluoro-4-methylaniline | FC=1C=C(N)C=CC1C | C7H8FN
product | 2-[(3-fluoro-4-methylphenyl)amino]phenylacetic acid | FC=1C=C(C=CC1C)NC1=C(C=CC=C1)CC(=O)O | C15H14FNO2
